US08686150B2
(e) 4-[6-Chloro-3-methyl-1-(tetrahydro-pyran-2-yl)-1H-pyrazolo[3,4-b]pyridine-4-carbonyl]-3-methyl-3-phenyl-piperazine-1-carboxylic acid tert-butyl ester
A mixture of 6-chloro-3-methyl-1-(tetrahydro-pyran-2-yl)-1H-pyrazolo[3,4-b]pyridine-4-carboxylic acid (325 mg), 3-methyl-3-phenyl-piperazine-1-carboxylic acid tert-butyl ester (319 mg), DIPEA (0.38 mL) and BEP (331 mg) in DMF (8.1 mL) was stirred at r.t. for 90 min. The mixture was poured into water. A solid precipitated which was filtered off and dried in a desiccator vacuum over sodium hydroxide. 540 mg (89%) of the title compound were obtained.

reactant | 6-chloro-3-methyl-1-(tetrahydro-pyran-2-yl)-1H-pyrazolo[3,4-b]pyridine-4-carboxylic acid | 325 mg | ClC=1C=C(C2=C(N1)N(N=C2C)C2OCCCC2)C(=O)O | C13H14ClN3O3
reactant | 3-methyl-3-phenyl-piperazine-1-carboxylic acid tert-butyl ester | 319 mg | C(C)(C)(C)OC(=O)N1CC(NCC1)(C1=CC=CC=C1)C | C16H24N2O2
reactant | DIPEA | 0.38 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | water | O | H2O
solvent | DMF | 8.1 mL | CN(C)C=O | C3H7NO
product | 4-[6-Chloro-3-methyl-1-(tetrahydro-pyran-2-yl)-1H-pyrazolo[3,4-b]pyridine-4-carbonyl]-3-methyl-3-phenyl-piperazine-1-carboxylic acid tert-butyl ester | 540 mg, 89% | C(C)(C)(C)OC(=O)N1CC(N(CC1)C(=O)C=1C2=C(N=C(C1)Cl)N(N=C2C)C2OCCCC2)(C2=CC=CC=C2)C | C29H36ClN5O4
